US08217063B2
Dimethyl 4,4′-[2-(hydroxymethyl)butane-1,4-diyl]dibenzoate
At −10° C., 112.8 ml (112.8 mmol) of a 1 M borane/THF complex solution are added dropwise to a solution of 20.9 g (56.4 mmol) of 2-[4-(methoxycarbonyl)benzyl]-4-[4-(methoxycarbonyl)-phenyl]butanoic acid in 600 ml of THF. The reaction mixture is then warmed to 0° C. and stirred at this temperature for 4 h. After the reaction has gone to completion, saturated ammonium chloride solution is added, the reaction mixture is diluted with water and ethyl acetate, the phases are separated and the aqueous phase is re-extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulfate and, after filtration, freed from the solvent under reduced pressure. This gives 20.11 g (purity 94%, 100% of theory) of a colorless solid.

reactant | 2-[4-(methoxycarbonyl)benzyl]-4-[4-(methoxycarbonyl)-phenyl]butanoic acid | 56.4 mmol, 20.9 g | COC(=O)C1=CC=C(CC(C(=O)O)CCC2=CC=C(C=C2)C(=O)OC)C=C1 | C21H22O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dimethyl 4,4′-[2-(hydroxymethyl)butane-1,4-diyl]dibenzoate | OCC(CC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C21H24O5
